US07691863B2
a) 5-Methanesulfonyloxy-pyrazine-2-carboxylic acid methyl ester
A mixture of 3.34 g (22 mmol) methyl 5-hydroxypyrazine-2-carboxylate (commercially available), 2.73 g (24 mmol) methane sulfonyl chloride and 3.29 g (33 mmol) NEt3 in 40 mL DCM was stirred at room temperature for 4 h. Water and Na2CO3 was added and the organic layer was separated and dried with MgSO4. Evaporation yielded 3.7 g (73%) of the title compound which was used without further purification. 300-MHz-1H-NMR (DMSO): δ=9.06 (d, J=1.2 Hz, 1H, 3-H), 8.83 (d, J=1.2 Hz, 1H, 6-H), d=3.97 (s, 3H, OMe), 3.74 (s, 3H, SO2Me).

reactant | methyl 5-hydroxypyrazine-2-carboxylate | 22 mmol, 3.34 g | OC=1N=CC(=NC1)C(=O)OC | C6H6N2O3
reactant | methane sulfonyl chloride | 24 mmol, 2.73 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | NEt3 | 33 mmol, 3.29 g | CCN(CC)CC | C6H15N
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 5-Methanesulfonyloxy-pyrazine-2-carboxylic acid methyl ester | 3.7 g, 73% | COC(=O)C1=NC=C(N=C1)OS(=O)(=O)C | C7H8N2O5S
